US08809333B2
To a solution of Ethyl 2-(methylsulfonyl)propanoate (377 mg, 2.09 mmol, 1 eq) and 1-(2-iodoethyl)-4-phenyl-1H-imidazole (623 mg, 2.09 mmol, 1 eq) in DMF (7 mL) was added Cs2CO3(1.70 g, 5.22 mmol, 2.5 eq) and the reaction mixture was allowed to stir overnight at RT, then for a further 24 h at 45° C. EtOAc was added and the mixture was washed with water. The organic layer was dried over MgSO4, filtered and concentrated. The crude product mixture was purified by flash chromatography on silica gel eluting with 10-95% ethyl acetate in heptanes to give ethyl 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoate (335 mg, 46% yield). LC-MS M+H+351.1.

reactant | Ethyl 2-(methylsulfonyl)propanoate | 2.09 mmol, 377 mg, 1 eq | CS(=O)(=O)C(C(=O)OCC)C | C6H12O4S
reactant | 1-(2-iodoethyl)-4-phenyl-1H-imidazole | 2.09 mmol, 623 mg, 1 eq | ICCN1C=NC(=C1)C1=CC=CC=C1 | C11H11IN2
reactant | Cs2CO3 | 5.22 mmol, 1.70 g, 2.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | ethyl 2-methyl-2-(methylsulfonyl)-4-(4-phenyl-1H-imidazol-1-yl)butanoate | 335 mg, 46% yield | CC(C(=O)OCC)(CCN1C=NC(=C1)C1=CC=CC=C1)S(=O)(=O)C | C17H22N2O4S
